US07064124B2
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoic acid
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridylmethyloxy)benzoic acid (0.100 g, 0.221 mmol) was dissolved in a mixed solution of acetonitrile (9 ml) and water (3 ml) and after adding thereto CAN (0.303 g, 0.552 mmol) at room temperature, the solution was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (chloroform:methanol=1:2) and then recrystallized from ether to obtain the titled compound (0.071 g, 0.168 mmol, 76%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridylmethyloxy)benzoic acid | 0.221 mmol, 0.100 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OCC=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C25H27NO7
reactant | CAN | 0.552 mmol, 0.303 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
product | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoic acid | 0.168 mmol, 0.071 g, 76% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OCC=1C=NC=CC1)C)=O | C23H21NO7
